US05519034
A mixture of 2-chlorophenylacetonitrile (26.5 g), 1,3-diiodo-2,2-dimethylpropane (56 g) and dimethyl sulphoxide (300 ml) was added dropwise to a stirred suspension of powdered potassium hydroxide (40 g) in dry dimethylsulphoxide (300 ml). The mixture was stirred for one hour, then poured onto ice/water and extracted with ethyl acetate. The extracts yielded an oil which was distilled under vacuum to give 2,2-dimethyl-1-(2-chlorophenyl)cyclobutane carbonitrile, (b.p. 116°-120° C./1 mbar) which was recrystallised from petroleum ether (b.p. 60°-80° C.) m.p. 65°-69° C.

reactant | 2-chlorophenylacetonitrile | 26.5 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | 1,3-diiodo-2,2-dimethylpropane | 56 g | ICC(CI)(C)C | C5H10I2
reactant | potassium hydroxide | 40 g | [OH-].[K+]
reactant | dimethylsulphoxide | 300 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulphoxide | 300 ml | CS(=O)C | C2H6OS
product | 2,2-dimethyl-1-(2-chlorophenyl)cyclobutane carbonitrile | CC1(C(CC1)(C#N)C1=C(C=CC=C1)Cl)C | C13H14ClN
